US07585885B2
(2R,4R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-(2-methoxy-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester
Add dropwise diisopropyl azodicarboxylate (0.065 mL, 0.327 mmol) to a solution of (2R,4S)-2-[(4S,5S)-3-acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester (0.099 g, 0.218 mmol), 2-methoxy phenol (0.036 mL, 0.327 mmol) and triphenylphosphine (0.086 g, 0.327 mmol) in tetrahydrofuran (1.5 mL). Stir 18 hours. Purify reaction mixture on silica gel with ethyl acetate/hexane mixtures to give the desired compound as a foam (0.064 g, 53%). MS(ES): m/z=561 [M+H].

reactant | diisopropyl azodicarboxylate | 0.327 mmol, 0.065 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | (2R,4S)-2-[(4S,5S)-3-acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.218 mmol, 0.099 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@@H](C1)O)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C23H32F2N2O5
reactant | 2-methoxy phenol | 0.327 mmol, 0.036 mL | COC1=C(C=CC=C1)O | C7H8O2
reactant | triphenylphosphine | 0.327 mmol, 0.086 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | (2R,4R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-(2-methoxy-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.064 g, 53% | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)OC1=C(C=CC=C1)OC)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C30H38F2N2O6
